US06080870
Step A: 4-(2'-trifluoromethylphenyl)benzaldehyde
To a solution of 4-formylbenzeneboronic acid (4.00 g, 26.7 mmol) and Na2CO3 (5.66 g, 53.4 mmol) in water (240 mL) was added p-dioxane (240 mL). This mixture was treated sequentially with 2-iodobenzotrifluoride (3.74 mL, 26.7 mmol) and palladium (II) acetate (540 mg, 2.40 mmol) and allowed to stir at ambient temperature for 24 hours. The solvent was evaporated in vacuo. To the residue was added EtOAc (400 inL) and water (300 mL). The aqueous layer was acidified to pH 2 with 1.0 N aq. HCl and the layers separated. The aqueous layer was extracted with EtOAc (2×200 mL). The organic extracts were combined, washed with brine (200 mL), 5% aq. Na2S2O3 (200 mL), saturated NaCl (200 mL), dried (Na2SO4), and the solvent evaporated in vacuo and the residue chromatographed (Silica gel, 20-50% CH2Cl2 in hexanes) to afford the title compound.

reactant | 4-formylbenzeneboronic acid | 26.7 mmol, 4.00 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | Na2CO3 | 53.4 mmol, 5.66 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | p-dioxane | 240 mL | O1CCOCC1 | C4H8O2
reactant | 2-iodobenzotrifluoride | 26.7 mmol, 3.74 mL | IC1=C(C=CC=C1)C(F)(F)F | C7H4F3I
solvent | water | 240 mL | O | H2O
catalyst | palladium (II) acetate | 2.40 mmol, 540 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(2'-trifluoromethylphenyl)benzaldehyde | FC(C1=C(C=CC=C1)C1=CC=C(C=O)C=C1)(F)F | C14H9F3O
